US08278328B2
Description 126. 3-Amino-4-hydroxybenzamide. (D126)
A mixture of 4-hydroxy-3-nitrobenzamide D125 (0.49 g, 2.69 mmol), cyclohexene (1.105 g, 13.45 mmol) and 10% palladium on carbon (0.143 g, 0.135 mmol) in ethanol (20 mL) was heated to reflux under argon for 3 hr. The cooled mixture was filtered through celite and the filtrate concentrated to dryness in vacuo to afford a yellow/brown solid. The product was purified by silica gel chromatography eluting with 0-15% 2M ammonia in MeOH/DCM. The title compound was isolated as a pale brown powder, 0.26 g, 57.2%.

reactant | 4-hydroxy-3-nitrobenzamide | OC1=C(C=C(C(=O)N)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | cyclohexene | 13.45 mmol, 1.105 g | C1=CCCCC1 | C6H10
catalyst | palladium on carbon | 0.135 mmol, 0.143 g | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Amino-4-hydroxybenzamide | NC=1C=C(C(=O)N)C=CC1O | C7H8N2O2
